US06025375
A tetrahydrofuran (50 ml) solution of 3-methoxybenzyl chloride (14.01 g) was added slowly to a suspension of magnesium (2.18 g) and iodine (a catalytic amount) in tetrahydrofuran (50 ml) at 60° C. over 40 minutes. After 1 hour stirring at the same temperature, the reaction mixture was cooled to the room temperature. An insoluble material was filtered off and the Grignard solution was prepared. The Grignard solution was added slowly to a suspension of ethyl 5(R)-acetoxy-1-cyclopentenecarboxylate (4.50 g) and copper(I) iodide (0.56 g) in tetrahydrofuran (100 ml) over 1 hour at -60° C. After 1 hour stirring at the same temperature, IN-hydrochloric acid (100 ml) was added to the reaction mixture. The mixture was extracted with ethyl acetate The extract was washed with 1N-hydrochloric acid, water, saturated aqueous sodium hydrogencarbonate and brine. Drying (sodium sulfate) and removal of solvent at reduced pressure followed by flash chromatography over 250 g of silica afforded (-)-ethyl 5(S)-(3-methoxybenzyl)-1-cyclopentencarboxylate as a colorless oil (4.73 g).

reactant | 3-methoxybenzyl chloride | 14.01 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | magnesium | 2.18 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | ethyl 5(R)-acetoxy-1-cyclopentenecarboxylate | 4.50 g | C(C)(=O)O[C@@H]1CCC=C1C(=O)OCC | C10H14O4
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 0.56 g | [Cu]I
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (-)-ethyl 5(S)-(3-methoxybenzyl)-1-cyclopentencarboxylate | 4.73 g | COC=1C=C(C[C@@H]2CCC=C2C(=O)OCC)C=CC1 | C16H20O3
